US07666879B2
Combine [2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid dihydrochloride (0.66 g, 1.57 mmol), 4-tert-butyl-6-methyl-pyridin-2-yl-amine (0.26 g, 1.57 mmol), HATU (0.72 g, 1.57 mmol), diisopropylethylamine (8.12 g, 11.2 mL, 6.28 mmol) in DMF (10 mL) and stir at ambient temperature for 3 hours. Pour the reaction contents onto a pre-washed (with methanol) Varian SCX column (25 g) and wash the column with portions (30 mL) of dichloromethane (2×) and methanol (3×). Elute the product with 2N methanolic ammonia (75 mL) and concentrate the solution to dryness. Chromatograph the crude product on silica using (0-5%) methanol in dichloromethane. Recrystallization from dichloromethane/ether/hexanes provides N-(4-tert-Butyl-6-methyl-pyridin-2-yl)-2-[2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetamide (0.17 g). MS(ES), m/z 494 (M+1).

reactant | [2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetic acid dihydrochloride | 1.57 mmol, 0.66 g | Cl.Cl.FC1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)CC(=O)O
reactant | 4-tert-butyl-6-methyl-pyridin-2-yl-amine | 1.57 mmol, 0.26 g | C(C)(C)(C)C1=CC(=NC(=C1)C)N | C10H16N2
reactant | HATU | 1.57 mmol, 0.72 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 6.28 mmol, 11.2 mL, 8.12 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-tert-Butyl-6-methyl-pyridin-2-yl)-2-[2-fluoro-4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-acetamide | 0.17 g | C(C)(C)(C)C1=CC(=NC(=C1)C)NC(CC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=NC=C2)F)=O | C30H28FN5O
